US09315491B2
5-Ethoxy-6-morpholin-4-yl-2-[4-(3-phenyl-thioureido)-phenyl]-pyrimidine-4-carboxylic acid ethyl ester
Phenyl isothiocyanate (0.02 ml, 1.5 eq.) was added to a stirred solution of 2-(4-amino-phenyl)-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester (40 mg, 1 eq.) in CHCl3 (3 ml) and the mixture was reacted overnight at r.t. The reaction mixture was extracted with EA and washed with brine. The crude was purified by chromatography to give a product (32.6 mg, 60%).

reactant | Phenyl isothiocyanate | 0.02 ml, 1.5 eq. | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | 2-(4-amino-phenyl)-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester | 40 mg, 1 eq. | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)C1=CC=C(C=C1)N | C19H24N4O4
solvent | CHCl3 | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Ethoxy-6-morpholin-4-yl-2-[4-(3-phenyl-thioureido)-phenyl]-pyrimidine-4-carboxylic acid ethyl ester | 32.6 mg, 60% | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)C1=CC=C(C=C1)NC(=S)NC1=CC=CC=C1 | C26H29N5O4S
